US05101048
Preparation of 4-cyanophenyl 2,3,4-tri-O-acetyl-1,5-dithio-β-D-xylopyranoside (Example 1a)
A suspension of 625 mg (1.76.10-3 mol) of 2,3,4-tri-O-acetyl-5-thio-D-xylopyranosyl bromide, 200 mg (1.48.10-3 mol) of 4-mercaptobenzonitrile and a 400 pm molecular sieve in 10 ml of acetonitrile is stirred in the presence of 605 mg (4.4.10-3 mol) of zinc chloride and 310 mg (1.8.10-3 mol) of silver imidazolate, in the absence of light, under an inert atmosphere. After heating at 50° C. for 3 h, the reaction mixture is filtered on Celite® in ethyl acetate. The filtrate is washed with a 1N solution of hydrochloric acid, water, a 1N solution of sodium hydroxide, water and finally a saturated solution of sodium chloride, dried over magnesium sulfate and evaporated under reduced pressure. After purification by chromatography on silica gel using a hexane/ethyl acetate mixture (3/1 v/v) as the eluent, and precipitation in ether, 100 mg (yield: 17%) of the expected product are obtained.

reactant | 2,3,4-tri-O-acetyl-5-thio-D-xylopyranosyl bromide | 625 mg | C(C)(=O)O[C@H]1C(SC[C@H]([C@@H]1OC(C)=O)OC(C)=O)Br | C11H15BrO6S
reactant | 4-mercaptobenzonitrile | 200 mg | SC1=CC=C(C#N)C=C1 | C7H5NS
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
catalyst | zinc chloride | 605 mg | [Cl-].[Zn+2].[Cl-]
catalyst | silver imidazolate | 310 mg | [N-]1C=NC=C1.[Ag+]
product | 4-cyanophenyl 2,3,4-tri-O-acetyl-1,5-dithio-β-D-xylopyranoside | 100 mg, yield: 17% | C(C)(=O)O[C@H]1[C@H](SC2=CC=C(C=C2)C#N)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C18H19NO6S2
